US04207234
Benzyl chloroformate (7.9 g.) was dissolved in methylene chloride (50 ml.). A methylene chloride (20 ml.) solution containing 3-amino-1-(1-methoxycarbonyl-2-methyl-1-propenyl)-2-azetidinone (2.42 g.) and triethylamine (3.7 g.) was added dropwise to the solution at -15° to -10° C. in the course of 1.33 hours with stirring, whereafter the mixture was stirred at the same temperature for 1.25 hours. The reaction mixture was evaporated to dryness under reduced pressure to give a residue, which was dissolved in ethyl acetate (150 ml.). The solution was washed three times with 5% hydrochloric acid and once with an aqueous sodium chloride, and then dried over magnesium sulfate. The solvent was removed by distillation and a residue (7.3 g.) was treated with n-hexane to give crude object compound, 3-benzyloxycarbonylamino-1-(1-methoxycarbonyl-2-methyl-1-propenyl)-2-azetidinone (3.27 g.). The compound (3.71 g.) thus obtained was subjected to column chromatography on silica gel (60 g.), and elution was carried out with chloroform and a mixture of chloroform and methanol (volume ratio; 10:1). The fractions containing the desired compound were collected and the solvent was distilled off from the eluate under reduced pressure to give the purified object compound (3.05 g.).

reactant | Benzyl chloroformate | 7.9 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 3-amino-1-(1-methoxycarbonyl-2-methyl-1-propenyl)-2-azetidinone | 2.42 g | NC1C(N(C1)C(=C(C)C)C(=O)OC)=O | C9H14N2O3
reactant | triethylamine | 3.7 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-benzyloxycarbonylamino-1-(1-methoxycarbonyl-2-methyl-1-propenyl)-2-azetidinone | 3.27 g | C(C1=CC=CC=C1)OC(=O)NC1C(N(C1)C(=C(C)C)C(=O)OC)=O | C17H20N2O5
